US04101667
To 100 ml of N-methylpyrrolidone was added 10.8g of 2-methoxy-9-chloro-10,11-dihydrodibenzo[b,f]thiepin, 10.7g of copper cyanide and 0.4g of anhydrous copper sulfate and the resulting mixture was stirred at 190°-195° C for 15 hours. After cooling, to the mixture was added 28% ammonia water, 200 ml of water and 200 ml of benzene and the resulting mixture was shaked and filtered with celite. The filtrate was extracted with benzene. The extract was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and freed of the solvent to obtain 9.0g of light brown cyrstals. This product was chromatographed over silica gel and eluted with benzene, there was obtained 5.4g (50%) of 2-methoxy-9-cyano-10,11-dihydrodibenzo[ b,f]thiepin as colorless prismatic crystals having a melting point of 129°-130° C.

reactant | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2-methoxy-9-chloro-10,11-dihydrodibenzo[b,f]thiepin | 10.8g | COC1=CC2=C(SC3=C(CC2)C(=CC=C3)Cl)C=C1 | C15H13ClOS
reactant | copper cyanide | 10.7g | [Cu](C#N)C#N
reactant | ammonia water | O.N
catalyst | copper sulfate | 0.4g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | water | 200 ml | O | H2O
product | 2-methoxy-9-cyano-10,11-dihydrodibenzo[ b,f]thiepin | 5.4g, 50% | COC1=CC2=C(SC3=C(CC2)C(=CC=C3)C#N)C=C1 | C16H13NOS
